US07622486B2
Synthesis of 2,6-dichloro-4-piperdino pyridine
A mixture of piperidine (0.910 g, 10.7 mmol) in 25 mL of THF and 5 mL of 1N NaOH was stirred for 30 minutes at 0° C., after which time 2,4,6-trichloropyridine (1.63 g, 8.86 mmol) was added. The reaction mixture was then stirred at 30-40° C. for 12-18 hours, after which the reaction mixture was cooled and neutralized with 5% HCl (aq). This product was extracted with ethyl acetate, and the organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography over 100-200 mesh silica gel by elution with 10:90 ethyl acetate: hexanes to afford the product as a pure colorless solid (yield 32%).

reactant | piperidine | 10.7 mmol, 0.910 g | N1CCCCC1 | C5H11N
reactant | 2,4,6-trichloropyridine | 8.86 mmol, 1.63 g | ClC1=NC(=CC(=C1)Cl)Cl | C5H2Cl3N
reactant | HCl | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | 2,6-dichloro-4-piperdino pyridine | yield 32% | ClC1=NC(=CC(=C1)N1CCCCC1)Cl | C10H12Cl2N2
